US08389296B2
Benzoylecgonine (BE) (4 mg) was dissolved in dry dioxin (500 ul) and N-hydroxysuccinamide (NHS) (4 mg) added. 1-Ethyl-3-(3-dimethylaminopropul)carbodiimide hydrochloride (8 mg) was suspended/dissolved in dioxan (1 ml) and immediately added to the mixture. The mixture was shaken at ambient temperature for 2 hours (to form BE-succinamide). To this was added diamino terminated polyethyleneglycol (mol. wt. 20,000) dissolved in 1 ml of 0.1M sodium bicarbonate solution. The solution was left overnight (about 16 hrs) and was then diluted with tris/triton buffer.

reactant | Benzoylecgonine | 4 mg | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C3=CC=CC=C3)C(=O)O | C16H19NO4
reactant | N-hydroxysuccinamide | 4 mg | ONC(CCC(=O)N)=O | C4H8N2O3
solvent | dioxin | 500 ul | O1C=COC=C1 | C4H4O2
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | BE succinamide | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C3=CC=CC=C3)C(=O)O.C(CCC(=O)N)(=O)N | InChI=1S/C16H19NO4.C4H8N2O2/c1-17-11-7-8-12(17)14(15(18)19)13(9-11)21-16(20)10-5-3-2-4-6-10;5-3(7)1-2-4(6)8/h2-6,11-14H,7-9H2,1H3,(H,18,19);1-2H2,(H2,5,7)(H2,6,8)/t11-,12+,13-,14+;/m0./s1
